US05116829
21-[2-(acetylamino)-3-etylthio-1-oxopropylthio]-9-fluoro-11β,17- dihydroxy-16β-methylpregna-1,4-diene-3,20-dione (Compound No. 12)
The title compound (0.21 gm) was prepared from 9-fluoro-11 ,17-dihydroxy-16β-methylpregna-1,4-diene-3,20-dione-21-thiol (0.5 gm) and N-acetyl-S-ethylcysteine (0.70 gm) in the same manner as in Synthetic Example 1.

reactant | 9-fluoro-11 ,17-dihydroxy-16β-methylpregna-1,4-diene-3,20-dione-21-thiol | 0.5 gm | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1C[C@@H]([C@](C(CS)=O)([C@]1(CC2O)C)O)C)=O)C | C22H29FO4S
reactant | N-acetyl-S-ethylcysteine | 0.70 gm | C(C)(=O)N[C@@H](CSCC)C(=O)O | C7H13NO3S
product | 21-[2-(acetylamino)-3-etylthio-1-oxopropylthio]-9-fluoro-11β,17- dihydroxy-16β-methylpregna-1,4-diene-3,20-dione | 0.21 gm | C(C)(=O)NC(C(SCC([C@]1([C@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O)F)=O)C)O)=O)=O)CSCC | C29H40FNO6S2
